US07435815B2
N,N-Diethyl-2-[phenyl-(toluene-3-sulfonyl)-amino]-acetamide
prepared by reaction of 2-bromoacetyl bromide with diethylamine, aniline and toluene-3-sulfonyl chloride

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | diethylamine | C(C)NCC | C4H11N
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | toluene-3-sulfonyl chloride | C1(=CC(=CC=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | N,N-Diethyl-2-[phenyl-(toluene-3-sulfonyl)-amino]-acetamide | C(C)N(C(CN(S(=O)(=O)C=1C=C(C=CC1)C)C1=CC=CC=C1)=O)CC | C19H24N2O3S
